US05164402
1. N-Benzyl-N-(1-cyanoprop-2 -yl)-3-amino-1,2-propanediol
A solution of glycidol (70 ml, 1.05 mol) and 3-(benzylamino)butyronitrile (111 g, 0.64 mol) in ethanol (800 ml) was heated to reflux for 18 hours. Additional glycidol (50 ml, 0.75 mol) was added, and the mixture was heated at reflux for an additional 24 hours. Removal of solvent in vacuo left a residue which was partitioned between water and ethyl acetate. The organic layer was washed with water, washed with saturated sodium chloride solution and dried over sodium sulfate. Filtration and concentration in vacuo provided an oil, which was purified by column chromatography (eluant: 5% methanol in chloroform) to give the title product as an oil (42 g, 0.17 mol, 27% yield). 1H NMR (CDCl3): 7.31 (m, 5H), 3.77 (d, J=13.4 Hz, 1H), 3.67 (m, 3H), 3.49 (d, J=13.5 Hz, 1H), 3.43 (m, 1H), 3.18 (m, 1H), 2.55 (m, 4H), 2.30 (m, 1H), 1.16 and 1.08 (d, J=6.5 Hz, 3H).

reactant | glycidol | 1.05 mol, 70 ml | C1C(O1)CO | C3H6O2
reactant | 3-(benzylamino)butyronitrile | 0.64 mol, 111 g | C(C1=CC=CC=C1)NC(CC#N)C | C11H14N2
reactant | glycidol | 0.75 mol, 50 ml | C1C(O1)CO | C3H6O2
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | N-Benzyl-N-(1-cyanoprop-2 -yl)-3-amino-1,2-propanediol | 0.17 mol, 42 g, 27% yield | C(C1=CC=CC=C1)N(CC(CO)O)C(CC#N)C | C14H20N2O2
